Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Pyelonephritis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ dm2 p/w flank pain. She states that she developed symptoms 
of L flank pain starting on ___. She went to work on ___ 
although was having body aches all day. That night she was not 
able to sleep and she "tossed and turned all night". She denies 
f/c. She presented to ED that afternoon after taking her 
children to the pediatrician for fever. In the ED CT abdomen 
showed L pyelonephritis without abscess. She was treated with 
ceftriaxone as well as tylenol and morphine for pain. She was 
enrolled in ___ study protocol.
 
Past Medical History:
-Recurrent right renal calculi first stone in ___, removal of
right kidney in ___ due to significantly decreased right renal
function (7%)  No known work up for etiology of stones. (Path:
Xanthogranulomatous pyelonephritis)
-Iron deficiency anemia (secondary to heavy menses)
-HTN
-Hyperlipidemia
-Diabetes last HbA1C 8.6% Aug
-Tendonitis
 
Social History:
___
Family History:
her brother had "kidney problems" at age ___ that resolved, mother 
with MI at age ___
 
Physical Exam:
VS: Temp: 100.1  BP: 128/70  HR: 88  RR: 20  O2sat: 97 RA  
.  
Gen: In NAD.  
HEENT: PERRL, EOMI. No scleral icterus. No conjunctival 
injection. Mucous membranes moist. No oral ulcers.  
Neck: Supple, no LAD, no JVP elevation.  
Lungs: CTA bilaterally, no wheezes, rales, rhonchi. Normal 
respiratory effort.  
CV: RRR, no murmurs, rubs, gallops.  
Abdomen: soft, NT, ND, NABS  
Back: TTP L flank
Extremities: warm and well perfused, no cyanosis, clubbing, 
edema.  
Neurological: alert and oriented X 3
Skin: No rashes or ulcers.  
Psychiatric: Appropriate.  
 
Pertinent Results:
___ 07:20PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 07:20PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN->300 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-0.2 PH-5.0 LEUK-SM
___ 07:20PM URINE  ___ WBC->50 BACTERIA-MANY YEAST-NONE 
___ 04:54PM   GLUCOSE-182* LACTATE-1.3
___ 04:50PM   GLUCOSE-183* UREA N-13 CREAT-0.9 SODIUM-132* 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-26 ANION GAP-13
___ 04:50PM   estGFR-Using this
___ 04:50PM   ALT(SGPT)-14 AST(SGOT)-12 ALK PHOS-63 TOT 
BILI-0.7
___ 04:50PM   LIPASE-27
___ 04:50PM   WBC-8.3 RBC-4.56 HGB-11.8* HCT-35.0* MCV-77* 
MCH-25.9* MCHC-33.7 RDW-13.8
___ 04:50PM   NEUTS-81.6* LYMPHS-14.8* MONOS-2.5 EOS-0.8 
BASOS-0.2
___ 04:50PM   PLT COUNT-301
___ 03:23PM URINE  HOURS-RANDOM
___ 03:23PM URINE  GR HOLD-HOLD
___ 03:23PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 03:23PM URINE  BLOOD-MOD NITRITE-POS PROTEIN-100 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-SM
___ 03:23PM URINE  ___ WBC->50 BACTERIA-MANY YEAST-NONE 
EPI->___ dm2 p/w pyelonephritis
.  
1. Pyelonephritis:
E coli sensitive to ciprofloxacin.  Two week course prescribed.  
 Follow up with PCP ___.

 
Medications on Admission:
Glucovance 2.5 mg-500 mg BID
Simvastatin 20 mg qd
Diovan 40 mg BID
aspirin 81 mg qd
Ferrous Sulfate 325 mg BID
 
Discharge Medications:
No changes to home medications, the following prescribed:

1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
2. Percocet ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain: do not drive, operate machinery, or 
drink alcohol while using this medication.
Disp:*30 Tablet(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): stop if you have diarrhea.  Use only while taking 
pain medication.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis

 
Discharge Condition:
Stable, AF, VSS, tolerating PO intake, pain controlled, Cr. 
stable.

 
Discharge Instructions:
Return to the ___ for: fevers, worsening flank pain.  Resume 
all your home medications.  I have prescribed only:

Antibiotic (one)
Pain medication
Stool softener to use while taking pain medications
 
Followup Instructions:
___